US07977344B2
N2-Butyl-8-(methyloxy)-9-[3-(tetrahydro-2H-pyran-4-yl)propyl]-9H-purine-2,6-diamine
A mixture of N2-butyl-8-(methyloxy)-3H-purine-2,6-diamine (150 mg, 0.429 mmol) and potassium carbonate (237 mg, 1.718 mmol) in dry DMF (5 ml) was stirred at 60° C. for 1 hour under an atmosphere of nitrogen and then cooled to room temperature. 4-(3-Bromopropyl)tetrahydro-2H-pyran (0.087 ml, 0.515 mmol) was added and the mixture stirred at 50° C. overnight. The mixture was cooled and partitioned between 1:1 ethyl acetate:DCM (10 ml) and water (10 ml). The organic phase was separated using a hydrophobic frit and evaporated under a stream of nitrogen using a blowdown apparatus. The residue was dissolved in 1:1 methanol:DCM (2.8 ml) and purified by mass directed autopreparation. Product containing fractions were evaporated under a stream of nitrogen to give the title compound as a white solid (93.13 mg).

reactant | N2-butyl-8-(methyloxy)-3H-purine-2,6-diamine | 0.429 mmol, 150 mg | C(CCC)NC1=NC(=C2N=C(N=C2N1)OC)N | C10H16N6O
reactant | potassium carbonate | 1.718 mmol, 237 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(3-Bromopropyl)tetrahydro-2H-pyran | 0.515 mmol, 0.087 ml | BrCCCC1CCOCC1 | C8H15BrO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N2-Butyl-8-(methyloxy)-9-[3-(tetrahydro-2H-pyran-4-yl)propyl]-9H-purine-2,6-diamine | 93.13 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCCC1CCOCC1)OC)N | C18H30N6O2
